US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione may be prepared by reacting 1H-indole and 3,4-dibromo-1-phenyl-pyrrole-2,5-dione in the presence of methyl magnesium bromide to yield 3-bromo-4-(1H-indol-3-yl)-1-phenyl-pyrrole-2,5-dione. The 3-bromo-4-(1H-indol-3-yl)-1-phenyl-pyrrole-2,5-dione is subsequently reacted with 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline and LiHMDS (lithium hexamethyldisilane) in toluene or (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-boranediol and Pd(PPh3)-4-(tetrakis(triphenylphosphine)palladium) to yield 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1-phenyl-pyrrole-2,5-dione, which is reduced and deprotected by treatment with Mg in methanol, as in Example 2 procedure C, followed by catalytic hydrogenation over palladium on carbon to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl) pyrrolidine-2,5-dione. Bnz is benzyl.

reactant | 3-bromo-4-(1H-indol-3-yl)-1-phenyl-pyrrole-2,5-dione | BrC=1C(N(C(C1C1=CNC2=CC=CC=C12)=O)C1=CC=CC=C1)=O | C18H11BrN2O2
reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | C1=CN2CCCC3=CC=CC1=C23 | C11H11N
reactant | LiHMDS | C[Si]([Si](C)(C)C)(C)C.[Li]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | (5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-boranediol | C1(=CN2CCCC3=CC=CC1=C23)B(O)O | C11H12BNO2
product | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1-phenyl-pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(N(C(C2C2=CNC3=CC=CC=C23)=O)C2=CC=CC=C2)=O | C29H21N3O2
